US07214673B2
2-(2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile
By using a method similar to the method of Example 490, combine 2-amino-benzo[b]thiophene-3-carbonitrile (3.56 g, 20.5 mmol), 2-fluoro-nitrobenzene (2.88 g, 20.5 mmol) and Lithium hydroxide (0.96 g, 41.0 mmol) ) in 50 mL of DMSO and heat to 50 ° C., after over night heating to give 5.0 g, yield 83%. Mass spectrum: ES(+) (m/e): 296.0 ((M+1); 1H NMR (400 MHz, DMSO-d6) ppm: 10.27 (s, 1H), 8.13 (dd, 1H, J=1.7 Hz, J=8.3 Hz), 7.91–7.89 (m, 1H), 7.76–7.72 (m, 1H), 7.64–7.57 (m, 2 H), 7.48–7.44 (m, 1H), 7.36–7.32 (m, 2H).

reactant | 2-amino-benzo[b]thiophene-3-carbonitrile | 20.5 mmol, 3.56 g | NC1=C(C2=C(S1)C=CC=C2)C#N | C9H6N2S
reactant | 2-fluoro-nitrobenzene | 20.5 mmol, 2.88 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Lithium hydroxide | 41.0 mmol, 0.96 g | [OH-].[Li+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-(2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile | yield 83% | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C2=C(S1)C=CC=C2)C#N | C15H9N3O2S
